US04999356
A mixture of 4.9 g of 1-phenyl-3-(1-piperazinyl)-1H-indazole, 5.1 g of nitrourea, and 80 ml of dimethylformamide was heated on a steam bath for 15 minutes. The reaction mixture was then poured into water and the resulting precipitate was recrystallized from ethyl acetate (2×) to yield 3.1 g (57%) of 4-(1-phenyl-1H-indazol-3-yl)-1-piperazine carboxamide, m.p. 151°-153°.

reactant | 1-phenyl-3-(1-piperazinyl)-1H-indazole | 4.9 g | C1(=CC=CC=C1)N1N=C(C2=CC=CC=C12)N1CCNCC1 | C17H18N4
reactant | nitrourea | 5.1 g | [N+](=O)([O-])NC(=O)N | CH3N3O3
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(1-phenyl-1H-indazol-3-yl)-1-piperazine carboxamide | 3.1 g, 57% | C1(=CC=CC=C1)N1N=C(C2=CC=CC=C12)N1CCN(CC1)C(=O)N | C18H19N5O
